US04977165
(2) Preparation of N-[4-[4-[N-ethyl-2-(6-methyl-2-pyridyl)ethylamino]butyryl]phenyl]methanesulfonamide
The same procedure as that of Example 4-(2) was repeated except that N-[4-[1-hydroxy-4-[N-methyl-2-(6-methyl-2-pyridyl)ethylamino]butyl]phenyl]methanesulfonamide was replaced with N-[4-[1-hydroxy-4-[N-ethyl-2-(6-methyl-2-pyridyl)ethylamino]butyl]phenyl]methanesulfonamide obtained in the above step (1).

reactant | N-[4-[1-hydroxy-4-[N-methyl-2-(6-methyl-2-pyridyl)ethylamino]butyl]phenyl]methanesulfonamide | OC(CCCN(C)CCC1=NC(=CC=C1)C)C1=CC=C(C=C1)NS(=O)(=O)C | C20H29N3O3S
reactant | N-[4-[1-hydroxy-4-[N-ethyl-2-(6-methyl-2-pyridyl)ethylamino]butyl]phenyl]methanesulfonamide | OC(CCCN(CC)CCC1=NC(=CC=C1)C)C1=CC=C(C=C1)NS(=O)(=O)C | C21H31N3O3S
product | N-[4-[4-[N-ethyl-2-(6-methyl-2-pyridyl)ethylamino]butyryl]phenyl]methanesulfonamide | C(C)N(CCCC(=O)C1=CC=C(C=C1)NS(=O)(=O)C)CCC1=NC(=CC=C1)C | C21H29N3O3S
